US04152327
10-Hydroxy-5,5-dimethyl-8-(1,2-dimethylheptyl)-N-phenyl-1,2,3,4-tetrahydro-5H-[1]benzopyrano[4,3-c]pyridine-2-acetamide (XIV)
The above-titled compound was prepared by reacting 10-hydroxy-5,5-dimethyl-8-(1,2-dimethylheptyl)-1,2,3,4-tetrahydro-5H-[1]benzopyrano[4,3-c]pyridine with 2-chloro-N-phenylacetamide according to the method of Example 1; m.p. 125°-127°.

reactant | 10-hydroxy-5,5-dimethyl-8-(1,2-dimethylheptyl)-1,2,3,4-tetrahydro-5H-[1]benzopyrano[4,3-c]pyridine | OC1=CC(=CC2=C1C=1CNCCC1C(O2)(C)C)C(C(CCCCC)C)C | C23H35NO2
reactant | 2-chloro-N-phenylacetamide | ClCC(=O)NC1=CC=CC=C1 | C8H8ClNO
product | 10-Hydroxy-5,5-dimethyl-8-(1,2-dimethylheptyl)-N-phenyl-1,2,3,4-tetrahydro-5H-[1]benzopyrano[4,3-c]pyridine-2-acetamide | OC1=CC(=CC2=C1C=1CN(CCC1C(O2)(C)C)CC(=O)NC2=CC=CC=C2)C(C(CCCCC)C)C | C31H42N2O3
